US07220856B2
Preparation of 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]-8-methylquinoline
7-Chloro-8-methyl-4-(piperazin-1-yl)quinoline (80 mg, 0.31 mmol), 4-fluorophenyl isocyanate (57 μL, 0.5 mmol), and DMAP (2 mg) in THF (10 mL) are reacted according to method C yielding the product as a yellow solid after column chromatography with hexane-EtOAc.

reactant | 7-Chloro-8-methyl-4-(piperazin-1-yl)quinoline | 0.31 mmol, 80 mg | ClC1=CC=C2C(=CC=NC2=C1C)N1CCNCC1 | C14H16ClN3
reactant | 4-fluorophenyl isocyanate | 0.5 mmol, 57 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
catalyst | DMAP | 2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]-8-methylquinoline | ClC1=CC=C2C(=CC=NC2=C1C)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C21H20ClFN4O
